US05776718
To a solution of Boc-2-naphthylalanine (2.68 g, 8.51 mmol, (Synthetech, Oregon) in THF (50 mL) at -10° C. were added 4-methylmorpholine (0.936 mL, 8.51 mmol) and isobutyl chloroformate (1.103 mL, 8.51 mmol). The mixture was stirred for 5 minutes, whereupon (S)-(E)-3-amino-5-phenyl-1-(2-naphthylsulfonyl)-1-pentene (3.30 g, 8.51 mmol) was added, followed by 4-methylmorpholine (0.936 mL, 8.51 mmol). The mixture was stirred for 45 minutes, diluted with ethyl acetate (100 mL), washed with 1M HCl (50 mL), saturated aqueous sodium bicarbonate (50 mL), and brine (50 mL), dried over MgSO4, filtered, and the solvent was removed under reduced pressure. The intermediate, (S)-(E)-3-(tert-butoxycarbonyl-2-naphthylalanyl)amino-5-phenyl-1-(2-naphthylsulfonyl)-1-pentene, was crystallized from a suitable mixture CH2 Cl2 /ether/hexane in 69% yield. The resulting material (3.83 g, 5.90 mmol) was dissolved in CH2Cl2 (5 mL) and was treated with HCl/dioxane (15 mL of a 4.0M solution. The mixture was stirred at room temperature for 1 hour. The solution was poured, with stirring, into ether (500 mL) and filtered. The solids were washed with ether (2×50 mL) and dried in vacuo to give the intermediate, (S)-(E)-3-(2-naphthylalanyl)-amino-5-phenyl-1-(2-naphthylsulfonyl)-1-pentene, 3.41 g, 99% yield.

reactant | Boc-2-naphthylalanine | C(=O)(OC(C)(C)C)N([C@@H](C)C(=O)O)C1=CC2=CC=CC=C2C=C1 | C18H21NO4
reactant | 4-methylmorpholine | 8.51 mmol, 0.936 mL | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 8.51 mmol, 1.103 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | (S)-(E)-3-amino-5-phenyl-1-(2-naphthylsulfonyl)-1-pentene | 8.51 mmol, 3.30 g | N[C@H](/C=C/S(=O)(=O)C1=CC2=CC=CC=C2C=C1)CCC1=CC=CC=C1 | C21H21NO2S
reactant | 4-methylmorpholine | 8.51 mmol, 0.936 mL | CN1CCOCC1 | C5H11NO
reactant | HCl dioxane | Cl.O1CCOCC1
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | ether | 500 mL | CCOCC | C4H10O
product | (S)-(E)-3-(2-naphthylalanyl)-amino-5-phenyl-1-(2-naphthylsulfonyl)-1-pentene | 99% yield | C1=C(C=CC2=CC=CC=C12)N[C@@H](C)C(=O)[C@H](/C=C(/S(=O)(=O)C1=CC2=CC=CC=C2C=C1)\N)CCC1=CC=CC=C1 | C34H32N2O3S
